US09376422B2
Methyl 3-{[(2R*,6S*)-1-benzyl-2,6-dimethylpiperidin-4-yl](ethyl)amino}-2-methyl-5-(trifluoromethyl)benzoate (Diastereomeric Mixture)
To a stirred solution of methyl 3-{[(2R,6S)-1-benzyl-2,6-dimethylpiperidin-4-yl]amino}-2-methyl-5-(trifluoromethyl)benzoate (223 mg, 0.513 mmol) in chloroform (4 mL) and acetic acid (500 uL) was added acetaldehyde (1.0 ml) and stirred for 30 min at 0° C. Then sodium triacetoxyborohydride (343 mg, 1.54 mmol) was added to the reaction mixture at 0° C. The reaction mixture was stirred at 23° C. for 4 hours. Then the reaction mixture was quenched with aq. NaHCO3 until pH8-9. The content was extracted with ethylacetate. The organic layer was washed with brine. The organic layer was dried over MgSO4 and filtered. The filtrate was concentrated in vacuo. The residue was purified by silica gel column chromatography (heptane/ethylacetate=4/1 to 1/2) to give the titled compound as a colorless oil. (105.5 mg, 44% yield). MS (ES) [M+H] 463.3.

reactant | methyl 3-{[(2R,6S)-1-benzyl-2,6-dimethylpiperidin-4-yl]amino}-2-methyl-5-(trifluoromethyl)benzoate | 0.513 mmol, 223 mg | C(C1=CC=CC=C1)N1[C@@H](CC(C[C@@H]1C)NC=1C(=C(C(=O)OC)C=C(C1)C(F)(F)F)C)C | C24H29F3N2O2
reactant | acetaldehyde | 1.0 ml | C(C)=O | C2H4O
reactant | sodium triacetoxyborohydride | 1.54 mmol, 343 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | chloroform | 4 mL | C(Cl)(Cl)Cl | CHCl3
solvent | acetic acid | 500 uL | C(C)(=O)O | C2H4O2
product | Methyl 3-{[(2R*,6S*)-1-benzyl-2,6-dimethylpiperidin-4-yl](ethyl)amino}-2-methyl-5-(trifluoromethyl)benzoate | 44% yield | C(C1=CC=CC=C1)N1[C@@H](CC(C[C@@H]1C)N(C=1C(=C(C(=O)OC)C=C(C1)C(F)(F)F)C)CC)C | C26H33F3N2O2
